US04140790
46 g of 1-(2-methoxyphenyl)-piperazin and 24.5 g of trimethylene chlorohydrine are dissolved in 200 ml of ethanol, and 25 g of potassium carbonate are added to the solution. The mixture is refluxed for 30 hours, thereafter it is cooled to 0° C, diluted with 50 ml of ethyl ether, filtered, and the filtrate is evaporated. The residue is dissolved in 100 ml of 50° C benzene, the solution is cooled to 0° C, and allowed to stand for 10 hours. The separated crystals are filtered off and dried. 46 g (77%) of 3-[4-(2-methoxyphenyl)-piperazine-1-yl]-1-hydroxy-propane are obtained; m.p.: 92°-93° C.

reactant | 1-(2-methoxyphenyl)-piperazin | 46 g | COC1=C(C=CC=C1)N1CCNCC1 | C11H16N2O
reactant | trimethylene chlorohydrine | 24.5 g | C(CCO)Cl | C3H7ClO
reactant | potassium carbonate | 25 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | ethyl ether | 50 ml | C(C)OCC | C4H10O
product | 3-[4-(2-methoxyphenyl)-piperazine-1-yl]-1-hydroxy-propane | 46 g, 77% | COC1=C(C=CC=C1)N1CCN(CC1)CCCO | C14H22N2O2
